US08609849B1
4-(2-Fluoro-phenyl)-4-hydroxypiperidine-1-carboxylic acid tert-butyl ester.
To a stirring solution of 1-bromo-2-fluorobenzene (2 g, 11.4 mmol) in tetrahydrofuran (30 mL) at −70° C. under nitrogen was added a solution of n-butyllithium (5.0 mL, 12.6 mmol, 2.5 M in hexane). After 30 minutes, 4-oxo-piperidine-1-carboxylic acid tert-butyl ester (2.97 g, 14.9 mmol) was added in one portion. After 30 minutes, the reaction was quenched with water (2 mL) and was allowed to warm to ambient temperature. After one hour at ambient temperature, the reaction mixture was poured into water (75 mL) and the mixture was extracted with ethyl acetate (2×75 mL). The organic layers were combined, washed with saturated aqueous sodium chloride and concentrated at reduced pressure. The resulting crude product was triturated with hexane (35 mL) for 2 hours, filtered and dried to give the product as a white solid (2.22 g, 65%). 1H NMR (CDCl3) δ 7.45 (m, 1H,), 7.24 (m, 1H), 7.19-7.01 (m, 2H), 4.03 (br s, 2H), 3.23 (m, 2H), 18 (m, 3H), 1.81 (m, 2H), 1.45 (m, 9H). MS (ES+)=296 (MH)+.

reactant | 1-bromo-2-fluorobenzene | 11.4 mmol, 2 g | BrC1=C(C=CC=C1)F | C6H4BrF
reactant | n-butyllithium | 12.6 mmol, 2.5 M, 5.0 mL | C(CCC)[Li]
reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 14.9 mmol, 2.97 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 4-(2-Fluoro-phenyl)-4-hydroxypiperidine-1-carboxylic acid tert-butyl ester | 2.22 g, 65% | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)C1=C(C=CC=C1)F | C16H22FNO3
